US05091528
4-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine
The title compound was prepared from 6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine using the method described in Example 19. Yield: 3.01 g (56%) of product as a yellow solid. mp 185-187; 'H NMR (300 MHz, DMSO) and 7.968 (dd, J=8.9 Hz, 2H), 7.78 (d, J=2.5H 1H), 7.363 (d, J=8.9 2H), 4.799 (s, 2H), 3.32 (s, 3H); 13C NMR (75 MHz, DMSO) and 164.430, 144.77, 135.913, 118.824, 115.808, 111.5142, 66.944, 20.82; Mass Spectrum M+ m/z 208.

reactant | 6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | [N+](=O)([O-])C=1C=CC2=C(NC(CO2)=O)C1 | C8H6N2O4
reactant | DMSO | CS(=O)C | C2H6OS
product | 4-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | CN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O | C9H8N2O4
